US07572801B2
In analogy to the procedure described in example 78.4, 2,5-dichloro-N-[1-imino-2-(2-naphthalen-2-yl-ethoxy)-ethyl]-nicotinamide was treated with potassium carbonate in DMF for 3 h at 100° C. to obtain 6-chloro-2-(2-naphthalen-2-yl-ethoxymethyl)-3H-pyrido[2,3-d]pyrimidin-4-one as brown crystals. MS: m/e=366.0 [M+H+].

reactant | 2,5-dichloro-N-[1-imino-2-(2-naphthalen-2-yl-ethoxy)-ethyl]-nicotinamide | ClC1=C(C(=O)NC(COCCC2=CC3=CC=CC=C3C=C2)=N)C=C(C=N1)Cl | C20H17Cl2N3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-chloro-2-(2-naphthalen-2-yl-ethoxymethyl)-3H-pyrido[2,3-d]pyrimidin-4-one | ClC1=CC2=C(N=C(NC2=O)COCCC2=CC3=CC=CC=C3C=C2)N=C1 | C20H16ClN3O2
